US05464781
In a similar manner to Example 1, a mixture of ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate (1.93 g) and 4-phenoxyaniline (1.33 g) in IMS (40 ml) was boiled under reflux for 2 hours to give ethyl 6-ethoxy-7-methyl-4-(4-phenoxyanilino)-1,8-naphthyridine-3-carboxylate hydrochloride, m.p. 213°-215° C. Active (1/2) at 30 mg/kg.

reactant | ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate | 1.93 g | ClC1=C(C=NC2=NC(=C(C=C12)OCC)C)C(=O)OCC | C14H15ClN2O3
reactant | 4-phenoxyaniline | 1.33 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
product | ethyl 6-ethoxy-7-methyl-4-(4-phenoxyanilino)-1,8-naphthyridine-3-carboxylate hydrochloride | Cl.C(C)OC=1C=C2C(=C(C=NC2=NC1C)C(=O)OCC)NC1=CC=C(C=C1)OC1=CC=CC=C1 | InChI=1S/C26H25N3O4.ClH/c1-4-31-23-15-21-24(22(26(30)32-5-2)16-27-25(21)28-17(23)3)29-18-11-13-20(14-12-18)33-19-9-7-6-8-10-19;/h6-16H,4-5H2,1-3H3,(H,27,28,29);1H
